US09227971B2
Step 2: Preparation of: 5-bromo-2-(2-methyl-1,3-thiazol-4-yl)pyridine
2-bromo-1-(5-bromopyridin-2-yl)ethanone (3.77 g, 13.5 mmol) was dissolved in ethanol (32 mL) and ethanethioamide (1.12 g, 14.8 mmol) was added and the reaction stirred for 18 h at 75° C. The mixture was concentrated; the residual solid was dispersed in ethyl acetate (100 mL), and treated with saturated sodium bicarbonate solution (100 mL) until no further gas evolution was noted. The combined organics were washed with water (50 mL) and brine (50 mL). The aqueous washes were back-extracted with ethyl acetate (100 mL) and the combined organic layers were dried over magnesium sulfate, treated with Darco, filtered through a paper filter, and concentrated to give a yellow solid. The crude product was purified by flash chromatography (90 g silica gel, 1-5% methanol in ethyl acetate). The major product was further purified by flash chromatography (40 g silica gel, 10% ethyl acetate in hexane) to give the title compound (1.94 g) as a colorless crystalline solid.

reactant | 2-bromo-1-(5-bromopyridin-2-yl)ethanone | 13.5 mmol, 3.77 g | BrCC(=O)C1=NC=C(C=C1)Br | C7H5Br2NO
reactant | ethanethioamide | 14.8 mmol, 1.12 g | C(C)(N)=S | C2H5NS
solvent | ethanol | 32 mL | C(C)O | C2H6O
product | 5-bromo-2-(2-methyl-1,3-thiazol-4-yl)pyridine | 1.94 g | BrC=1C=CC(=NC1)C=1N=C(SC1)C | C9H7BrN2S
